US08895582B2
To a solution of [2-Benzyloxy-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxymethyl)-ethyl]-carbamic acid tert-butyl ester (1.26 g, 3.18 mmol) in DMF (10 mL) was added sodium hydride (60%, 0.19 g, 4.78 mmol) at 0° C. in one portion. The reaction was stirred at 0° C. for 0.5 h then MeI (1.36 g, 9.56 mmol) was added. The reaction mixture was then stirred at 0° C. for 3 h at which time the LC-MS showed the reaction was complete. The reaction was quenched with saturated aq. NH4Cl solution and extracted with EtOAc (2×100 mL). The organic layer was then washed with water, brine and dried over Na2SO4. The organic layers were concentrated to give [2-benzyloxy-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxymethyl)-ethyl]-methyl-carbamic acid tert-butyl ester (1.25 g, 96%). LRMS (M-Boc+H+) m/z 310.1.

reactant | [2-Benzyloxy-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxymethyl)-ethyl]-carbamic acid tert-butyl ester | 3.18 mmol, 1.26 g | C(C)(C)(C)OC(NC(COCC1=CC=CC=C1)COCC1OC(OC1)(C)C)=O | C21H33NO6
reactant | sodium hydride | 4.78 mmol, 0.19 g | [H-].[Na+]
reactant | MeI | 9.56 mmol, 1.36 g | CI | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [2-benzyloxy-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxymethyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 1.25 g, 96% | C(C)(C)(C)OC(N(C)C(COCC1=CC=CC=C1)COCC1OC(OC1)(C)C)=O | C22H35NO6
